US08293925B2
Synthesis of tert-butyl 1-(2,6-dimethylphenyl)-5-oxopyrrolidine-3-carboxylate
To a 2 L, 3-neck flask was added 1-(2,6-dimethylphenyl)-5-oxopyrrolidine-3-carboxylic acid (93 g, 0.40 mol), anhydrous tert-butanol (60 mL, 0.63 mol), TEA (110 mL, 0.79 mol), DMAP (5.0 g, 41 mmol), and CH2Cl2 (800 mL). After the mixture was cooled in an ice bath under nitrogen atmosphere with mechanical stirring, 2,4,6-trichlorobenzoyl chloride (108 g, 0.443 mol) was added in portions over the course of 15 minutes such that the temperature did not exceed 10° C. After the addition was complete, the ice bath was removed, the mixture was allowed to warm to room temperature and stirred for an additional 14 h. TLC and LCMS indicated complete consumption of starting material and formation of desired product. The mixture was filtered and the filter cake was washed with EtOAc (100 mL) and ether (150 mL). The filtrate was washed with two 200 mL portions of 1 M NaHSO4, four 200 mL portions of saturated aqueous NaHCO3, and brine (100 mL). After drying over MgSO4, the organic phase was treated with 24 g of silica gel, and filtered. The filtrate was concentrated to 250 mL and diluted with hexane. A crystalline precipitate began to form, and an initial crop of 66 g was recovered. The filtrate was recovered and recrystallized (ether/hexanes) to afford a second crop (27 g); overall yield, 93 g (81%). LC-MS Rt (retention time): 2.28 min, MS: (ES) m/z 290 (M+H+).

reactant | 1-(2,6-dimethylphenyl)-5-oxopyrrolidine-3-carboxylic acid | 0.40 mol, 93 g | CC1=C(C(=CC=C1)C)N1CC(CC1=O)C(=O)O | C13H15NO3
reactant | tert-butanol | 0.63 mol, 60 mL | C(C)(C)(C)O | C4H10O
reactant | 2,4,6-trichlorobenzoyl chloride | 0.443 mol, 108 g | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
catalyst | DMAP | 41 mmol, 5.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(2,6-dimethylphenyl)-5-oxopyrrolidine-3-carboxylate | CC1=C(C(=CC=C1)C)N1CC(CC1=O)C(=O)OC(C)(C)C | C17H23NO3
